US04383705
Benzene and cumen are brought into reaction with 1,2-dichloroethane in the presence of aluminum chloride as a catalyst to obtain 1-isopropylphenyl-2-phenylethane.

reactant | Benzene | C1=CC=CC=C1 | C6H6
reactant | cumen | C1(=CC=CC=C1)C(C)C | C9H12
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
catalyst | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 1-isopropylphenyl-2-phenylethane | C(C)(C)C1(CC=CC=C1)CCC1=CC=CC=C1 | C17H22
